US05908860
trans-4-(4-chlorobenzoylamino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol
To a stirred solution of trans-4-amino-6cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol (1.0 g), triethylamine (0.64 mL) and dichloromethane was added 4-chlorobenzoyl chloride (0.55 mL). The solution was stirred for a further 1.5 hours. The solution was washed with water and brine and dried over anhydrous magnesium sulphate. The solution was filtered and evaporated and recrystallised from ethyl acetate--60-80° petroleum ether as a white solid of mp 226-229° C.

reactant | trans-4-amino-6cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 1.0 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C12H14N2O2
reactant | triethylamine | 0.64 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 0.55 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-4-(4-chlorobenzoylamino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | ClC1=CC=C(C(=O)N[C@H]2[C@@H](C(OC3=C2C=C(C=C3)C#N)(C)C)O)C=C1 | C19H17ClN2O3
